* SEAS 19TFF1
Eg 3 0 2.83

*C1hp 1 2 3.9u
*L1hp 2 0 .2m .10
*C2hp 2 3 12u

*Cnt 3 4 1.2u
*Rnt 4 0 6.1

*Rnotch 1 3 15
*Lnotch 3 4 1.30m 0.39
*Cnotch 4 0 6.8u

LeT   3 5 0.05m 6.2
TlT   5 0 2.6

TrT   6 0 1
RrmsT 6 0 .73268
CmmsT 6 0 0.23m
LcmsT 6 0 38.107u
GlT   6 0 4cm²

GrT   7 0 4cm²
ZrT1  7 8 4cm² ai
ZrT2  8 0 4cm² ai

! impedance
*. F . v1 v0 - IEg NEG DIV DUP ABS . ARG .
. F . v3 v0 - IEg NEG DIV ABS .

!output
*. F .
*. 1 2 FREEAIR IZrT1 * DBSPL .

