* SEAS 27TFF1
Eg 1 0 2.83

Ratt 1 2 3.2
Chp 2 3 5.6u
Lhp 3 0 .28m .10
*C2hp 2 3 12u

Cnt 3 4 2.17u
Rnt 4 0 4.8

*Rnotch 1 3 15
*Lnotch 3 4 1.30m 0.39
*Cnotch 4 0 6.8u

LeT   3 5 0.05m 4.8
TlT   5 0 3.5

TrT   6 0 1
RrmsT 6 0 .50
CmmsT 6 0 0.25m
LcmsT 6 0 .23m
GlT   6 0 7.6cm²

GrT   7 0 7.6cm²
ZrT1  7 8 7.6cm² ai
ZrT2  8 0 7.6cm² ai

! impedance
*. F . v1 v0 - IEg NEG DIV DUP ABS . ARG .
*. F . v1 v0 - IEg NEG DIV ABS .

!output
. F .
. 1 2 FREEAIR IZrT1 * DBSPL .

