* SURROUND based on Fostex FF165WK and SEAS 19TTF1

Eg 1 0 2.83
Lbsc 1 2 0.8e-3 .22
Rbsc 1 2 3.3

Llp  2 3 .6e-3 .21
Clp  3 0 3.9e-6
Cnw  3 4 1.2e-6
Rnw  4 0 6.8
LeW  3 5 .056e-3 6.5

TlW  5 0 7.227

TrW   6 0 1
RrmsW 6 0 .712294
CmmsW 6 0 9.5e-3
LcmsW 6 0 1.12651e-3
GlW   6 0 0.0132

GrW   7 0 0.0132
Box   7 8 0.009
ZrW1  8 9 0.0132 ai
ZrW1  9 0 0.0132 ai

Chp   1 10 3.9e-6
Lhp   10 0 .20e-3 .10
Chp2  10 11 12e-6

* Cnt   10 11 1.2e-6
* Rnt   11 0 6.8

* Rnotch 10 16 15
* Lnotch 16 17 1.30e-3 0.39
* Cnotch 17 0 6.8e-6

LeT   11 12 0.05e-3 6.2
TlT   12 0 2.6

TrT   13 0 1
RrmsT 13 0 1.36485
CmmsT 13 0 0.23e-3
LcmsT 13 0 38.107e-6
GlT   13 0 0.0004

GrT   14 0 0.0004
ZrT1  14 15 0.0004 ai
ZrT2  15 0 0.0004 ai


! frequency response /1m
*. F .
*. 1 2 FREEAIR
*. DUP IZrW1 IZrT1 - * DBSPL .
*. DUP IZrW1        * DBSPL .
*.     IZrT1        * DBSPL .

! power dissipation in resistors
*. F .
*. IRbsc v1 v2 - * REAL ABS .
*. IRnw v4 v0 - *  REAL ABS .

! total impedance
*. F .
*. v1 v0 - IEg / DUP ABS . ARG DEG .

! group delay
. F .
. 1 2 FREEAIR
. DUP IZrW1 IZrT1 - * ARG 2 PI F * * / 1000 * NEG .
. DUP IZrW1         * ARG 2 PI F * * / 1000 * NEG .
.     IZrT1         * ARG 2 PI F * * / 1000 * NEG .
